US06232290B1
A mixture of 4-(6-methoxy-n-hexyloxy)benzohydrazide (106.82 g) and pyridine (162 ml) in tetrahydrofuran (1 L) at 0°‥5° C. was treated portionwise with 4-methoxycarbonylbenzoyl chloride 83.75 g) over 30 minutes. After a further 1 hour at 0°-5° C., and 2 hours at room temperature, tlc indicated completed reaction and the reaction mixture was poured into water (7 L). The resulting precipitate was collected by filtration, washed thoroughly with water, and dried under hi-vacuum at 50° C. to give N-[4-(6-methoxy-n-hexyloxy)benzoyl]-N′-(4-methoxycarbonylbenzoyl)hydrazine (171.0 g) as a white solid.

reactant | 4-(6-methoxy-n-hexyloxy)benzohydrazide | 106.82 g | COCCCCCCOC1=CC=C(C(=O)NN)C=C1 | C14H22N2O3
reactant | pyridine | 162 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-methoxycarbonylbenzoyl chloride | 83.75 g | COC(=O)C1=CC=C(C(=O)Cl)C=C1 | C9H7ClO3
reactant | water | 7 L | O | H2O
solvent | tetrahydrofuran | 1 L | O1CCCC1 | C4H8O
product | N-[4-(6-methoxy-n-hexyloxy)benzoyl]-N′-(4-methoxycarbonylbenzoyl)hydrazine | 171.0 g | COCCCCCCOC1=CC=C(C(=O)NNC(C2=CC=C(C=C2)C(=O)OC)=O)C=C1 | C23H28N2O6
